US07253165B2
Synthesis of 6-fluoro-3-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-benzo[d]isoxazole (Scheme III, Compound 1b)
The title compound is prepared from a mixture of 3[4-(2-bromo-ethoxy)-phenyl]-6-fluoro-benzo[d]isoxazole, pyrrolidine, potassium carbonate, potassium iodide and 5% aqueous acetonitrile at 75° C. essentially as described above in Example 13, except that the column is eluted with 10% methanol in ethyl acetate. Purity by LC/MS=99%, [M+H]+=327.

reactant | 3[4-(2-bromo-ethoxy)-phenyl]-6-fluoro-benzo[d]isoxazole | BrCCOC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)F | C15H11BrFNO2
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 6-fluoro-3-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-benzo[d]isoxazole | FC1=CC2=C(C(=NO2)C2=CC=C(C=C2)OCCN2CCCC2)C=C1 | C19H19FN2O2
